US04567176
1-Benzyl-2-methylthio-2-imidazolin-4-one hydroiodide (2.09 g) from the previous stage, 3-(3-piperidinomethylphenoxy)propylamine (1.49 g) and triethylamine (1.27 g) were refluxed in ethanol (35 ml) for 7 hours with stirring. The solution was allowed to cool overnight and evaporated under reduced pressure to give a residue. This residue was dissolved in 2N hydrochloric acid (30 ml), and extracted with chloroform (3×20 ml). The aqueous layer was taken to pH 10 with 2N sodium hydroxide and extracted with chloroform (3×30 ml). The latter chloroform extracts were dried (MgSO4) and evaporated under reduced pressure. The residue was washed thoroughly with cold diethyl ether and treated with dilute ethanolic HCL. Excess solvent was evaporated and the residue recrystallised from isopropanolacetone to afford 2-[3-(3-piperidinomethylphenoxy)propylamino]-1-benzylimidazolin-4-one dihydrochloride, m.p. 95°-98° C.

reactant | 1-Benzyl-2-methylthio-2-imidazolin-4-one hydroiodide | 2.09 g | I.C(C1=CC=CC=C1)N1C(=NC(C1)=O)SC
reactant | 3-(3-piperidinomethylphenoxy)propylamine | 1.49 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | triethylamine | 1.27 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 2-[3-(3-piperidinomethylphenoxy)propylamino]-1-benzylimidazolin-4-one dihydrochloride | Cl.Cl.N1(CCCCC1)CC=1C=C(OCCCNC=2N(CC(N2)=O)CC2=CC=CC=C2)C=CC1 | InChI=1S/C25H32N4O2.2ClH/c30-24-20-29(19-21-9-3-1-4-10-21)25(27-24)26-13-8-16-31-23-12-7-11-22(17-23)18-28-14-5-2-6-15-28;;/h1,3-4,7,9-12,17H,2,5-6,8,13-16,18-20H2,(H,26,27,30);2*1H
